US07361763B2
To the 5-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-pyridin-2-ol, 4-(4-methoxyphenylmethoxy)-3-methoxyphenylboronic acid (1.3 equiv.), and 6 mol % of dichlorobis(triiphenylphosphino)palladium (II) in a Smith process vial was added a 3:2:1 mixture of acetonitrile, water and a 2 M aqueous solution of sodium carbonate (0.10 M). The reaction was run in a Personal Chemistry® microwave reactor at 165° C. for 1200 s. Water was added and the mixture was extracted three times with ethyl acetate Purification on silica gel with a gradient or methanol/dichloromethane by flash chromatography afforded 5-{5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-pyridin-2-ol as a tan solid (46% yield). 1H NMR (DMSO-d6): δ 11.86 (broad s, 1H), 11.67 (broad s, 1H), 8.51 (d, J=2.5 Hz, 1H), 8.22 (s, 1H), 7.89 (dd, J=2.5, 9.5 Hz, 1H), 7.75 (d, J=2.5 Hz, 1H), 7.72 (s, 1H), 7.38 (d, J=8.5 Hz, 2H), 7.30 (d, J=2.0 Hz, 1H), 7.20 (dd, J=2.0, 8.5 Hz, 1H), 7.11 (d, J=8.0 Hz, 1H), 6.94 (d, J=8.5 Hz, 2H), 6.44 (d, J=9.5 Hz, 1H), 5.03 (s, 2H), 3.85 (s, 3H), 3.75 (s, 3H); HPLC/MS m/z: 454.1 [MH]+.

reactant | 5-(5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-pyridin-2-ol | BrC=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)O | C12H8BrN3O
reactant | 4-(4-methoxyphenylmethoxy)-3-methoxyphenylboronic acid | 1.3 equiv. | COC1=CC=C(C=C1)COC1=C(C=C(C=C1)B(O)O)OC | C15H17BO5
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium carbonate | 0.10 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | Water | O | H2O
product | 5-{5-[3-methoxy-4-(4-methoxy-benzyloxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-3-yl}-pyridin-2-ol | 46% yield | COC=1C=C(C=CC1OCC1=CC=C(C=C1)OC)C=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)O | C27H23N3O4
